US07745462B2
Methanesulfonyl chloride (1.93 ml, 24.9 mmol) is added to a cooled (0° C.) solution of ((7R,8S)-8-hydroxymethyl-1,4-dioxa-spiro[4.4]non-7-yl)-methanol (Tet. Lett., 2002,43, 4947; 1.17 g, 6.22 mmol) and triethylamine (3.50 ml, 24.9 mmol) in dichloromethane (30 ml). The reaction is stirred for 2 hours at 0° C. and then partitioned between dichloromethane and iced water. The organic phase is washed with 1M aqueous HCl, saturated aqueous NaHCO3, brine, dried (MgSO4) and evaporated to afford methanesulfonic acid (7R,8S)-8-methane-sulfonyloxymethyl-1,4-dioxaspiro[4.4]non-7-ylmethyl ester, MH+345.

reactant | Methanesulfonyl chloride | 24.9 mmol, 1.93 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ((7R,8S)-8-hydroxymethyl-1,4-dioxa-spiro[4.4]non-7-yl)-methanol | 6.22 mmol, 1.17 g | OC[C@@H]1[C@@H](CC2(OCCO2)C1)CO | C9H16O4
reactant | triethylamine | 24.9 mmol, 3.50 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | methanesulfonic acid (7R,8S)-8-methane-sulfonyloxymethyl-1,4-dioxaspiro[4.4]non-7-ylmethyl ester | CS(=O)(=O)OC[C@@H]1[C@@H](CC2(OCCO2)C1)COS(=O)(=O)C | C11H20O8S2
